US05646173
An ozone stream (3 g ozone/hour) was conducted while stirring for 30 minutes through a solution, cooled to -70°, of 6.8 g of (RS)-2-(2-buten-1-yl)-5,6-dimethoxy-1-indanone in 100 ml of anhydrous dichloromethane and 20 ml of anhydrous methanol. Subsequently, the solution was flushed with oxygen for 5 minutes and with argon for 10 minutes. After the addition of 4 ml of dimethyl sulfide, the mixture was stirred at room temperature for 15 hours. The reaction mixture was evaporated in a vacuum, the residue was treated with 250 ml of dichloromethane and, after the addition of 10 ml of water and 10 ml of trifluoroacetic acid, stirred at room temperature for 1.5 hours. The mixture was subsequently poured into 100 ml of water and neutralized while stirring by the spatula-wise addition of sodium hydrogen carbonate. An additional 70 ml of water were added, the phases were separated and the aqueous phase was extracted twice with 120 ml of dichloromethane each time. The combined organic phases were dried over magnesium sulfate, concentrated in a vacuum and the crude product obtained was crystallized from diethyl ether/hexane. 4.7 g (73%) of (RS)-2-(2-oxoethyl)-5,6-dimethoxy-1-indanone were obtained as a light yellow solid with m.p. 122°.

reactant | ozone | O=[O+][O-] | O3
reactant | ozone | 3 g | O=[O+][O-] | O3
reactant | (RS)-2-(2-buten-1-yl)-5,6-dimethoxy-1-indanone | 6.8 g | C(C=CC)C1C(C2=CC(=C(C=C2C1)OC)OC)=O | C15H18O3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | methanol | 20 ml | CO | CH4O
product | (RS)-2-(2-oxoethyl)-5,6-dimethoxy-1-indanone | 4.7 g, 73% | O=CCC1C(C2=CC(=C(C=C2C1)OC)OC)=O | C13H14O4
